US08334295B2
3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-benzonitrile (Compound 103):
3-(2,6-Bis-benzyloxy-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile (372 mg, 65% pure, 0.52 mmol) was dissolved in 20 mL of EtOAc and 5 mL of EtOH. 10% Pd/C (75 mg) was added and a hydrogen balloon was applied. The reaction mixture was stirred at room temperature for 1 hour. The Pd/C was filtered through celite, and the filtrate was concentrated and purified using silica gel (EtOAc/hexane) to give a white solid (100 mg, 29%). LC-MS shows 286.0 (M+1).

reactant | 3-(2,6-Bis-benzyloxy-5-isopropyl-pyrimidin-4-yloxy)-5-methyl-benzonitrile | 0.52 mmol, 372 mg | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OC=1C=C(C#N)C=C(C1)C)C(C)C)OCC1=CC=CC=C1 | C29H27N3O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | 3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy)-5-methyl-benzonitrile | 100 mg, 29% | C(C)(C)C1=C(NC(NC1=O)=O)OC=1C=C(C#N)C=C(C1)C | C15H15N3O3
